data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-c1cnccc1_2-c1ccc(N(C)C)cc1_3-c1ccccc1_4-C_5-Oc1ccccc1","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1cnccc1)(c1ccc(N(C)C)cc1)=C(c1ccccc1)C(=O)Oc1ccccc1","S([H])C"],"products_smiles": ["S(C)C(c1cnccc1)(c1ccc(N(C)C)cc1)C(c1ccccc1)C(=O)Oc1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(c1cnccc1)(c1ccc(N(C)C)cc1)C(c1ccccc1)=C([O-])Oc1ccccc1","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(c1cnccc1)(c1ccc(N(C)C)cc1)C(c1ccccc1)C(=O)Oc1ccccc1","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-129_1-C=C_2-C1CCCCC1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["C=CBr","C1CCCCC1[Mg]Br"],"products_smiles": ["C=CC1CCCCC1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](C=C)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to C=C."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](C=C)C1CCCCC1","rationale": "The nucleophilic C1CCCCC1–MgBr transfers C1CCCCC1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "C=CC1CCCCC1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between C=C and C1CCCCC1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-317_1-C1CCCCC1_2-C(F)(F)C(F)(F)F","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C1CCCCC1[Mg]Br","CON(C)C(=O)(C(F)(F)C(F)(F)F)","O"],"products_smiles": ["C(=O)(C1CCCCC1)(C(F)(F)C(F)(F)F)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(C(F)(F)C(F)(F)F)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(O)(C(F)(F)C(F)(F)F)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(O)(C(F)(F)C(F)(F)F)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C1CCCCC1)(C(F)(F)C(F)(F)F)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
